US03973038
Acetylsalicylic acid (1.8 g.) was converted to its acid chloride by conventional method using thionyl chloride and dissolved in acetone (30 ml.). 4-Amino-2,6-dichloroanisole (2.13 g.) with N,N-dimethylaniline (1.27 ml.) was dissolved in acetone (25 ml.) to which, with stirring in the cold at 0°-10° C., the above acetone solution of acetylsalicyloyl chloride was added dropwise over 20-30 minutes. Reaction continued for 1-2 hours, then the solution was evaporated to dryness under reduced pressure, the residue being put in sodium hydroxide solution and gently agitated for 1-2 hours for cleavage of the acetyl group. After reaction was complete the solution was made acidic by the addition of 2 N hydrochloric acid and the precipitate which formed was collected by filtration and recrystallized from aqueous acetone to give needle-like crystals (2.0 g.) of 3',5'-dichloro-2-hydroxy-4'-methoxybenzanilide. Yield 64%. The melting point of the product is 226°- 228° C.

reactant | Acetylsalicylic acid | 1.8 g | C(C)(=O)OC=1C(C(=O)O)=CC=CC1 | C9H8O4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 4-Amino-2,6-dichloroanisole | 2.13 g | NC1=CC(=C(C(=C1)Cl)OC)Cl | C7H7Cl2NO
reactant | N,N-dimethylaniline | 1.27 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | acetylsalicyloyl chloride | C(C)(=O)OC=1C(C(=O)Cl)=CC=CC1 | C9H7ClO3
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 3',5'-dichloro-2-hydroxy-4'-methoxybenzanilide | 2.0 g, Yield 64% | ClC=1C=C(NC(C2=C(C=CC=C2)O)=O)C=C(C1OC)Cl | C14H11Cl2NO3
